US08039460B2
Step A: tert-Butyl {(2Z,3R,6S)-6-(2,6-difluorophenyl)-2-[(4,4,4-trifluoro-2-hydroxybutyl)imino]azepan-3-yl}carbamate
Mercury(II) chloride (538 mg, 1.98 mmol) was added to a solution of tert-butyl [(3R,6S)-6-(2,6-difluorophenyl)-2-thioxoazepan-3-yl]carbamate (353 mg, 0.99 mmol), 4,4,4-trifluoro-2-hydroxybutan-1-aminium chloride (498 mg, 2.77 mmol), and triethylamine (0.61 mL, 4.36 mmol) in ethanol (10 mL) at 55° C. After 2 h, the reaction was allowed to cool to ambient temperature. The mixture was filtered and concentrated. Saturated aqueous sodium bicarbonate was added and the mixture was extracted with dichloromethane (2×). The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated to give the title compound. MS 466.2 (M+1).

reactant | tert-butyl [(3R,6S)-6-(2,6-difluorophenyl)-2-thioxoazepan-3-yl]carbamate | 0.99 mmol, 353 mg | FC1=C(C(=CC=C1)F)[C@@H]1CC[C@H](C(NC1)=S)NC(OC(C)(C)C)=O | C17H22F2N2O2S
reactant | 4,4,4-trifluoro-2-hydroxybutan-1-aminium chloride | 2.77 mmol, 498 mg | [Cl-].FC(CC(C[NH3+])O)(F)F
reactant | triethylamine | 4.36 mmol, 0.61 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Mercury(II) chloride | 1.98 mmol, 538 mg | [Hg](Cl)Cl
product | tert-Butyl {(2Z,3R,6S)-6-(2,6-difluorophenyl)-2-[(4,4,4-trifluoro-2-hydroxybutyl)imino]azepan-3-yl}carbamate | FC1=C(C(=CC=C1)F)[C@@H]1CC[C@H](/C(/NC1)=N/CC(CC(F)(F)F)O)NC(OC(C)(C)C)=O | C21H28F5N3O3
